US07247626B2
To a cold (0° C.) solution of 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethanone oxime (5.0 g, 20.2 mmol) in ethylene glycol dimethyl ether (50 mL) was added trifluoroacetic anhydride (2.85 ml, 20.2 mmol) dropwise). The reaction mixture was warmed to room temperature and stirred 10 minutes then recooled to 0° C. A solution of triethylamine (5.63 mL, 40.4 mmol) in ethylene glycol dimethyl ether was added and the resultant solution was stirred at room temperature 1.5 hours. Iron (II) chloride (25 mg, 0.20 mmol) was added and the reaction mixture was refluxed 3 hours. The reaction mixture was cooled to room temperature and the excess ethylene glycol dimethyl ether was removed in vacuo. The resultant oil was chromatographed (9:1 to 4:1 hexanes:ethyl acetate) to provide 2-(3-chlorophenyl)pyrazolo[1,5-c]pyrimidine (3.2 g, 69%) as a pale yellow solid. Rf 0.27 (4:1 hexanes:ethyl acetate); 1H NMR (CDCl3) δ 9.25 (s, 1H), 8.00 (s, 1H), 7.88–7.81 (m, 2H), 7.46–7.39 (m, 3H), 6.81 (s, 1H); MS m/z 230 (M+1).

reactant | 1-(3-chlorophenyl)-2-(4-pyrimidinyl)ethanone oxime | 20.2 mmol, 5.0 g | ClC=1C=C(C=CC1)C(CC1=NC=NC=C1)=NO | C12H10ClN3O
reactant | trifluoroacetic anhydride | 20.2 mmol, 2.85 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 40.4 mmol, 5.63 mL | C(C)N(CC)CC | C6H15N
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
catalyst | Iron (II) chloride | 0.20 mmol, 25 mg | [Fe](Cl)Cl
product | 2-(3-chlorophenyl)pyrazolo[1,5-c]pyrimidine | 3.2 g, 69% | ClC=1C=C(C=CC1)C1=NN2C=NC=CC2=C1 | C12H8ClN3
